US07348438B2
2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(4-fluoro-phenyl)-ethanone
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (318 mg) in DMF (5 mL) was added sodium hydride (71 mg of 60% in oil dispersion). The resulting mixture was stirred at room temperature for 5 min. To the dark green solution was added 2-bromo-4′fluoroacetophenone (317 mg) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a peach colored solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 318 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | sodium hydride | 71 mg | [H-].[Na+]
reactant | 2-bromo-4′fluoroacetophenone | 317 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-1-(4-fluoro-phenyl)-ethanone | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(=O)C2=CC=C(C=C2)F)C=C1Cl | C17H10Cl2F4N2O
